US08039463B2
A solution of N-Biphenyl-4-yl-3-oxo-3-piperazin-1-yl-propionamide hydrochloride (75 mg, 0.2 mmol) and K2CO3 (58 mg, 0.42 mmol) in DMF (2 mL) was stirred for 15 minutes at room temperature, then cooled to 0° C. and 1-bromomethyl-2-trifluoromethyl-benzene (50 mg, 0.21 mmol) was added. The resulting mixture was stirred at room temperature for 6 hours then diluted with water. The resulting precipitate was filtered to afford 85 mg (85%) of N-biphenyl-4-yl-3-oxo-3-[4-(2-trifluoromethyl-benzyl)-piperazin-1-yl]-propionamide. LCMS: 482.2 (M+1)+, 98.8%, 1H NMR: (CDCl3): δ 10.0 (s, 1H), 7.76 (d, 1H), 7.66 (d, 3H), 7.58 (m, 5H), 7.44 (t, 2H), 7.34 (m, 2H), 3.7 (m, 4H), 3.6 (t, 2H), 3.48 (s, 2H).

reactant | N-Biphenyl-4-yl-3-oxo-3-piperazin-1-yl-propionamide hydrochloride | 0.2 mmol, 75 mg | Cl.C1(=CC=C(C=C1)NC(CC(N1CCNCC1)=O)=O)C1=CC=CC=C1
reactant | K2CO3 | 0.42 mmol, 58 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromomethyl-2-trifluoromethyl-benzene | 0.21 mmol, 50 mg | BrCC1=C(C=CC=C1)C(F)(F)F | C8H6BrF3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-biphenyl-4-yl-3-oxo-3-[4-(2-trifluoromethyl-benzyl)-piperazin-1-yl]-propionamide | 85 mg, 85% | C1(=CC=C(C=C1)NC(CC(N1CCN(CC1)CC1=C(C=CC=C1)C(F)(F)F)=O)=O)C1=CC=CC=C1 | C27H26F3N3O2
